US03963748
1-(4-Bromophenyl)-3-(1-pyrrolin-2-yl)urea.
Following a procedure similar to that described in Example 2 but using 4.6 g. sodium in 300 ml. dry acetone, 23.2 g. 2-amino-1-pyrroline hydrochloride and 38.9 g. 4-bromophenyl isocyanate in 200 ml. dry acetone, there was obtained after recrystallization from ethyl alcohol 10.8 g. of the hydrochloride of 1-(4-bromophenyl)-3-(1-pyrrolin-2-yl)urea; m.p. 221°-224°C.

reactant | sodium | [Na] | Na
reactant | 2-amino-1-pyrroline hydrochloride | Cl.NC1=NCCC1
reactant | 4-bromophenyl isocyanate | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Bromophenyl)-3-(1-pyrrolin-2-yl)urea | BrC1=CC=C(C=C1)NC(=O)NC1=NCCC1 | C11H12BrN3O
